US07078428B2
N-[(3-Oxo-2-propyl-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine is prepared as described in Example 1, starting with 3.9 g of potassium tert-butoxide, 3.3 g of guanidinium chloride and 1.8 g of ethyl (3-oxo-2-propyl-2,3-dihydro-1H-isoindol1-yl)acetate. The reaction mixture is stirred at a temperature in the region of 20° C. for 1 hour, followed by addition of 60 cm3 of water. The aqueous phase is extracted with 3 times 50 cm3 of ethyl acetate and is then concentrated to dryness under reduced pressure (0.6 kPa) at a temperature in the region of 45° C. The residue is taken up in water, triturated and filtered. The solid is taken up in methanol and the solvent is then evaporated to dryness under reduced pressure (0.6 kPa) at a temperature in the region of 45° C. 0.6 g of N-[(3-oxo-2-propyl-2,3-dihydro-1H-isoindol-1-yl)acetyl]-guanidine is thus obtained in the form of a pale yellow cottony solid melting at 229° C. Mass spectrum EI: m/e 274 (M+), m/e 187, m/e 86 (base peak).

reactant | potassium tert-butoxide | 3.9 g | CC(C)([O-])C.[K+]
reactant | guanidinium chloride | 3.3 g | [Cl-].NC(=[NH2+])N
reactant | ethyl (3-oxo-2-propyl-2,3-dihydro-1H-isoindol1-yl)acetate | 1.8 g | O=C1N(C(C2=CC=CC=C12)CC(=O)OCC)CCC | C15H19NO3
solvent | water | 60 cm3 | O | H2O
product | N-[(3-oxo-2-propyl-2,3-dihydro-1H-isoindol-1-yl)acetyl]-guanidine | 0.6 g | O=C1N(C(C2=CC=CC=C12)CC(=O)NC(=N)N)CCC | C14H18N4O2
